US04431813
A solution of 250 g of potassium isobutyl xanthate (about 90% pure) in 400 ml of dimethylformamide is added dropwise to a mixture of 141.5 g of 2-chloro-6-methylaniline and 276 g of potassium carbonate in 1 liter of dimethylformamide at 150° C. in the course of one hour, under a nitrogen atmosphere. The reaction mixture is stirred for about a further 26 hours, whilst cooling intensively. The batch is cooled, freed from salt and then concentrated to dryness. The residue is taken up in 400 ml of water and the mixture is acidified. The 4-methyl-2-mercaptobenzothiazole which precipitates is filtered off, washed with water and dried. 172 g (95% of theory) of 4-methyl-2-mercaptobenzothiazole of melting point 188°-190° C. are obtained.

reactant | potassium isobutyl xanthate | 250 g | O(C(=S)[S-])CC(C)C.[K+]
reactant | 2-chloro-6-methylaniline | 141.5 g | ClC1=C(N)C(=CC=C1)C | C7H8ClN
reactant | potassium carbonate | 276 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | 4-methyl-2-mercaptobenzothiazole | 172 g, 95% | CC1=CC=CC2=C1N=C(S2)S | C8H7NS2
